US03948939
9-Benzoyl-6-hydroxy-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid
A solution of 8.1 g. of 9-benzoyl-6-benzoyloxy-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid in 250 ml. of ethyl acetate over 1.5 g. of 10 percent palladium-on-charcoal was subjected to a hydrogen atmosphere at about 40 psig while being heated with a heat lamp. The reaction was stopped when a theoretical amount of hydrogen had been adsorbed (1 hour) and the resulting cooled mixture was filtered and evaporated to dryness under reduced pressure. The residue was crystallized from acetone-n-hexane to yield 4.1 g. of the title compound; m.p. 224°-227°C.

reactant | 9-benzoyl-6-benzoyloxy-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid | C(C1=CC=CC=C1)(=O)N1C2=CC=C(C=C2C=2CC(CCC12)C(=O)O)OC(C1=CC=CC=C1)=O | C27H21NO5
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-Benzoyl-6-hydroxy-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid | C(C1=CC=CC=C1)(=O)N1C2=CC=C(C=C2C=2CC(CCC12)C(=O)O)O | C20H17NO4
